US08802661B2
Preparation of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(3-(4-methoxy-4-oxobutylamino)propylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate. Intermediate 37
A mixture of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(3-aminopropylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (30 mg, 0.048 mmol), methyl 4-bromobutanoate (25.9 mg, 0.143 mmol) and potassium carbonate (19.78 mg, 0.143 mmol) in dioxane (1 mL) and Acetonitrile (1 mL) was heated up at 78° C. for 3 hours. LCMS indicated the formation of desired product, the reaction mixture was filtered and the clear solution was purified by prep HPLC to give the title compound as a white solid (10 mg, 29%). LCMS: m/e 729.48 (M+H)+, 2.62 min (method 1).

reactant | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(3-aminopropylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.048 mmol, 30 mg | NCCCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C | C41H60N2O3
reactant | methyl 4-bromobutanoate | 0.143 mmol, 25.9 mg | BrCCCC(=O)OC | C5H9BrO2
reactant | potassium carbonate | 0.143 mmol, 19.78 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | Acetonitrile | 1 mL | C(C)#N | C2H3N
product | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(3-(4-methoxy-4-oxobutylamino)propylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | COC(CCCNCCCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C)=O | C46H68N2O5
